US05814648
To a solution of N-(1-tert-butyldimethylsilyloxy-2(R)-phenylethan-2-yl)-3-iodobenzamide (13.1 g, 27.2 mmol) in 1,2-dimethoxyethane (80 ml) was added Lawesson's reagent (8.2 g, 20 mmol). The reaction mixture was stirred at ambient temperature for 1 h and then at 60° C. for 2 hours, cooled and poured into water (100 ml). The mixture was extracted with CH2 Cl2 (2×50 ml), washed with brine (100 ml), dried (MgSO4) and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel eluting with ethyl acetate/hexane (=1:7) to afford N-(1-tert-butyldimethylsilyloxy-2(R)-phenyl-ethan-2-yl)-3-iodobenzthiamide (4.99 g, 50%) as a yellow liquid.

reactant | N-(1-tert-butyldimethylsilyloxy-2(R)-phenylethan-2-yl)-3-iodobenzamide | 27.2 mmol, 13.1 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=CC=CC=C1)NC(C1=CC(=CC=C1)I)=O | C21H28INO2Si
reactant | Lawesson's reagent | 20 mmol, 8.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 100 ml | O | H2O
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
product | N-(1-tert-butyldimethylsilyloxy-2(R)-phenyl-ethan-2-yl)-3-iodobenzthiamide | 4.99 g, 50% | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=CC=CC=C1)NC(C1=CC(=CC=C1)I)=S | C21H28INOSSi
